US05442062
Using the same procedures as those in Example 5 as well as 1,3-cyclohexadiene-1-carboxylic acid and diethanolamine as a starting material, there was obtained 1,3-cyclohexadiene-1-carboxylic acid N,N-bis (2-hydroxyethyl)amide.

reactant | 1,3-cyclohexadiene-1-carboxylic acid | C1(=CC=CCC1)C(=O)O | C7H8O2
reactant | diethanolamine | N(CCO)CCO | C4H11NO2
product | 1,3-cyclohexadiene-1-carboxylic acid N,N-bis (2-hydroxyethyl)amide | OCCN(C(=O)C1=CC=CCC1)CCO | C11H17NO3
